US08895474B2
To a solution of 2-(5-bromo-2-ethylphenyl)-3a,4,5,6,7,7a-hexahydro-4,7-ethanoindene-1,3-dione (1.01 g, 2.8 mmol), copper (I) iodide (108 mg, 0.57 mmol) and L-proline (33 mg, 0.28 mmol) is added a solution of 1M aqueous sodium hydroxide (8.8 mL, 8.8 mmol), and the mixture is then heated at 200° C. for 150 minutes under microwave irradiation. After cooling to room temperature the mixture is diluted with ethyl acetate and then acidified with 2M hydrochloric acid and filtered through diatomaceous earth (washing with additional ethyl acetate). The aqueous phase is extracted into ethyl acetate (×3) and the combined organic extracts are washed with brine, dried over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure. The residue is purified by flash column chromatography on silica gel (ethyl acetate/iso-hexane eluant) to afford 2-(2-ethyl-5-hydroxyphenyl)hexahydro-4,7-ethanoindene-1,3-dione.

reactant | 2-(5-bromo-2-ethylphenyl)-3a,4,5,6,7,7a-hexahydro-4,7-ethanoindene-1,3-dione | 2.8 mmol, 1.01 g | BrC=1C=CC(=C(C1)C1C(C2C3CCC(C2C1=O)CC3)=O)CC | C19H21BrO2
reactant | L-proline | 0.28 mmol, 33 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 8.8 mmol, 1M, 8.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.57 mmol, 108 mg | [Cu]I
product | 2-(2-ethyl-5-hydroxyphenyl)hexahydro-4,7-ethanoindene-1,3-dione | C(C)C1=C(C=C(C=C1)O)C1C(C2C3CCC(C2C1=O)CC3)=O | C19H22O3
